US04847289
Step B: Preparation of 5-(4-carboxymethylphenylsulfonyl)thiophene-2-sulfonamide
In a similar manner 5-[4-(2-carboxyethyl)phenylsulfonyl]thiophene-2-sulfonamide (m.p. 195°-197° C.) and 5-[4-(3-carboxypropyl)phenylsulfonyl]thiophene-2-sulfonamide (m.p. 124°-126° C.) were synthesized.

reactant | 5-[4-(2-carboxyethyl)phenylsulfonyl]thiophene-2-sulfonamide | C(=O)(O)CCC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(S1)S(=O)(=O)N | C13H13NO6S3
reactant | 5-[4-(3-carboxypropyl)phenylsulfonyl]thiophene-2-sulfonamide | C(=O)(O)CCCC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(S1)S(=O)(=O)N | C14H15NO6S3
product | 5-(4-carboxymethylphenylsulfonyl)thiophene-2-sulfonamide | C(=O)(O)CC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(S1)S(=O)(=O)N | C12H11NO6S3
